US06759414B2
Preparation of N-(5-Chloropyridin-2-yl)-2-[[1-[2-(N-hydroxy-carbamimidoyl)pyridin-4-yl]piperidin-4-ylmethyl]amino]-benzamide
A solution of N-(5-chloropyridin-2-yl)-2-[1-(3-cyanopyridin-4-yl)piperidin-4-ylmethylamino]benzamide (50 mg, 0.11 mmol) and triethylamine (22 mg, 0.22 mmol) in ethanol (5 mL) was treated with hydroxylamine hydrochloride (12 mg, 0.17 mmol). After 16 h, the mixture was concentrated and the residue was purified by column chromatography (SiO2; 5% methanol in methylene chloride) yielding 40 mg (75%) of the title compound.

reactant | N-(5-chloropyridin-2-yl)-2-[1-(3-cyanopyridin-4-yl)piperidin-4-ylmethylamino]benzamide | 0.11 mmol, 50 mg | ClC=1C=CC(=NC1)NC(C1=C(C=CC=C1)NCC1CCN(CC1)C1=C(C=NC=C1)C#N)=O | C24H23ClN6O
reactant | triethylamine | 0.22 mmol, 22 mg | C(C)N(CC)CC | C6H15N
reactant | hydroxylamine hydrochloride | 0.17 mmol, 12 mg | Cl.NO
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | N-(5-Chloropyridin-2-yl)-2-[[1-[2-(N-hydroxy-carbamimidoyl)pyridin-4-yl]piperidin-4-ylmethyl]amino]-benzamide | 40 mg, 75% | ClC=1C=CC(=NC1)NC(C1=C(C=CC=C1)NCC1CCN(CC1)C1=CC(=NC=C1)C(NO)=N)=O | C24H26ClN7O2
